US05466687
4-[4-(2-Oxazolin-2-yl)benzylidene]-1-tritylpiperidine
6.25 ml of a 1.6M solution of n-butyllithium in hexane followed, after stirring for 20 minutes, by 3.4 g of N-trityl-4-piperidone (prepared from 4-piperidone hydrochloride hydrate and trityl chloride) in 20 ml of tetrahydrofuran are added dropwise at -60° C. to 2.97 g of diethyl 4-(2-oxazolin-2-yl)benzylphosphonate. The mixture is stirred at -60° C. for 25 minutes. The reaction solution is then allowed to warm to ambient temperature and is stirred for a further 1.5 hours at this temperature. The reaction solution is then stirred into 150 ml of ice-water, the mixture is extracted three times with 150 ml of ethyl acetate, and the organic phase is dried and evaporated down. The residue is purified by column chromatography on Silica gel (petroleum ether/ethyl acetate=1:1, v/v). 1.7 g of the title compound of melting point 110°-115° C. are obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | N-trityl-4-piperidone | 3.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCC(CC1)=O | C24H23NO
reactant | diethyl 4-(2-oxazolin-2-yl)benzylphosphonate | O1C(=NCC1)C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C14H20NO4P
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-[4-(2-Oxazolin-2-yl)benzylidene]-1-tritylpiperidine | 1.7 g | O1C(=NCC1)C1=CC=C(C=C2CCN(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C34H32N2O
